US04086219
Nα -Benzyloxycarbonyl-L-arginyl-L-prolyl-glycinamide hydrochloride, (Example 1, part m) 1.2 g., is dissolved in 60 ml. of absolute methanol, treated with 380 mg. of 10% palladium-on-carbon and the flask flushed with nitrogen, then with hydrogen and the reduction carried out for 40 minutes. Completion of the reaction is determined by thin layer chromatography. The mixture is filtered to separate the catalyst and the filtrate is evaporated and dried under reduced pressure to yield L-arginyl-L-prolyl-glycinamide hydrochloride.

reactant | Nα -Benzyloxycarbonyl-L-arginyl-L-prolyl-glycinamide hydrochloride | Cl.C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1
solvent | methanol | CO | CH4O
product | L-arginyl-L-prolyl-glycinamide hydrochloride | Cl.N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1 | InChI=1S/C13H25N7O3.ClH/c14-8(3-1-5-18-13(16)17)12(23)20-6-2-4-9(20)11(22)19-7-10(15)21;/h8-9H,1-7,14H2,(H2,15,21)(H,19,22)(H4,16,17,18);1H/t8-,9-;/m0./s1
